US06420375B1
(ii) Preparation of (E)-2-methyl-3-(2-naphthyl)-2-propen-1-ol
A solution of diisobutylaluminum hydride in toluene (1.5M, 26 ml) was added dropwise to a solution of methyl (E)-2-methyl-3-(2-naphthyl)acrylate (3.52 g) in CH2Cl2 (100 ml) at −78° C. and the mixture was stirred at −78° C. for 1 hour. The mixture was washed with 1N HCl and brine, dried and concentrated. The residue was crystallized from CH2Cl2-hexane to give the titled compound (2.89 g) as a white solid.

reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methyl (E)-2-methyl-3-(2-naphthyl)acrylate | 3.52 g | C/C(/C(=O)OC)=C\C1=CC2=CC=CC=C2C=C1 | C15H14O2
solvent | toluene | 1.5M, 26 ml | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | (E)-2-methyl-3-(2-naphthyl)-2-propen-1-ol | 2.89 g | C/C(/CO)=C\C1=CC2=CC=CC=C2C=C1 | C14H14O
